US08557983B2
7-methylene-2-oxaspiro[3.5]nonane
To a 250 mL round-bottomed flask was added methyltriphenylphosphonium iodide (4.33 g) in tetrahydrofuran (35.7 mL). The suspension was cooled to −15° C. n-Butyllithium (2.5 M in hexanes, 4.28 mL) was added dropwise and the reaction was stirred at −15° C. for 40 minutes and EXAMPLE 440D (1 g) was added as a tetrahydrofuran (ca. 5 mL) solution. The reaction was stirred at −15° C. for about 15 minutes and warmed to room temperature. After 1.5 hours the reaction was complete and was quenched with saturated aqueous NH4Cl and diluted with diethyl ether. The layers were separated and the aqueous layer was extracted (2×) with diethyl ether. The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated by rotary evaporation. The residue was purified by regular phase chromatography (Analogix, 0-50% hexanes/ethyl acetate).

reactant | methyltriphenylphosphonium iodide | 4.33 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-Butyllithium | 2.5 M, 4.28 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 35.7 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | ca. 5 mL | O1CCCC1 | C4H8O
product | 7-methylene-2-oxaspiro[3.5]nonane | C=C1CCC2(COC2)CC1 | C9H14O
